US05132314
(b) 3,5-Dichloro-2-[(4-chlorophenylsulfonyl)-amino]-benzoic acid
A suspension of 27.0 g of 3,5-dichloro-2-[di-(4-chlorophenylsulfonyl)-amino]-benzoic acid ethyl ester, 139 ml of 2N sodium hydroxide solution and 140 ml of ethanol is boiled at reflux for 6 hours, the solid gradually dissolving. After the reaction mixture has cooled, the precipitated crystals are filtered off and dissolved in 400 ml of water. 400 ml of methanol are added, acidification with 2N hydrochloric acid is carried out, and the precipitated crystals are filtered off. 12.3 g of the title compound (m.p. 188°-190° C.) are obtained.

reactant | 3,5-dichloro-2-[di-(4-chlorophenylsulfonyl)-amino]-benzoic acid ethyl ester | 27.0 g | C(C)OC(C1=C(C(=CC(=C1)Cl)Cl)N(S(=O)(=O)C1=CC=C(C=C1)Cl)S(=O)(=O)C1=CC=C(C=C1)Cl)=O | C21H15Cl4NO6S2
reactant | sodium hydroxide | 2N, 139 ml | [OH-].[Na+]
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 3,5-Dichloro-2-[(4-chlorophenylsulfonyl)-amino]-benzoic acid | 12.3 g | ClC=1C(=C(C(=O)O)C=C(C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)Cl | C13H8Cl3NO4S
